### PR TITLE
[Merged by Bors] - feat: more lemmas on `Concept`

### PR DESCRIPTION
**Pull request by vihdzp**
These are used in the [`combinatorial-games`](https://github.com/vihdzp/combinatorial-games) repository.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Concept.lean [hunk 1]
```diff
@@ -251,6 +251,31 @@ theorem intent_injective : Injective (@intent α β r) := fun _ _ => ext'
 @[deprecated (since := "2025-07-10")]
 alias snd_injective := intent_injective
 
+/-- Copy a concept, adjusting definitional equalities. -/
+def copy (c : Concept α β r) (e : Set α) (he : e = c.extent) (i : Set β) (hi : i = c.intent) :
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean]: Can you use simps here?

File: Mathlib/Order/Concept.lean [hunk 2]
```diff
@@ -282,6 +307,36 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
   · contradiction
   · assumption
 
+theorem isCompl_extent_intent [IsStrictTotalOrder α r'] (c' : Concept α α r') :
+    IsCompl c'.extent c'.intent :=
+  ⟨c'.disjoint_extent_intent, c'.codisjoint_extent_intent⟩
+
+/-- See `isLowerSet_extent'` for the theorem on a `<`-concept. -/
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean]: I think we should avoid primed names.

File: Mathlib/Order/Concept.lean [hunk 3]
```diff
@@ -282,6 +307,36 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
...
+theorem isLowerSet_extent {α : Type*} [Preorder α] (c : Concept α α (· ≤ ·)) :
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean]: Surely this just needs transitivity of <=? Preorder is too strong.

File: Mathlib/Order/Concept.lean [hunk 4]
```diff
@@ -282,6 +307,36 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
...
+/-- See `isUpperSet_intent'` for the theorem on a `<`-concept. -/
+theorem isUpperSet_intent {α : Type*} [Preorder α] (c : Concept α α (· ≤ ·)) :
+    IsUpperSet c.intent :=
+  @mem_intent_of_intent_rel _ _ _ _
+
+/-- See `isLowerSet_extent` for the theorem on a `≤`-concept. -/
+theorem isLowerSet_extent' {α : Type*} [PartialOrder α] (c : Concept α α (· < ·)) :
+    IsLowerSet c.extent := by
+  intro a b hb ha
+  obtain rfl | hb := hb.eq_or_lt
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean]: I suspect this can be golfed into a one-liner of some kind.

Comment (wrenna-robson) [reply Mathlib/Order/Concept.lean]: Also, this < stuff: I do wonder if there's a general theorem about the complementary relation or the flipped relation or both here. Probably best not to worry for now.

File: Mathlib/Order/Concept.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/Concept.lean]: Yes!

File: Mathlib/Order/Concept.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Order/Concept.lean]: What about `isLowerSet_extent_(le/lt)`?

File: Mathlib/Order/Concept.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Order/Concept.lean]: `<` is neither the complement or the swap of `≤`. You do have `x < y ↔ ¬ y ≤ x` in the linear order case, but this theorem works even in the partial order case.

I don't really see how to golf this down; in particular, I don't see how to avoid the casing on whether `b = a` or `b < a`.

File: Mathlib/Order/Concept.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Order/Concept.lean]: That's true, but presumably in any practical instance where you have a transitive ≤ relation you at least have a preorder? In fact, the only occurence of `IsTrans ?_ (· ≤ ·)` throughout Mathlib is the instance that infers this from a `Preorder`.

File: Mathlib/Order/Concept.lean (hunk 4 above)
Comment (wrenna-robson) [reply Mathlib/Order/Concept.lean]:
```
theorem isLowerSet_extent_lt {α : Type*} [PartialOrder α] (c : Concept α α (· < ·)) :
    IsLowerSet c.extent :=
  fun _ _ hb ha => hb.eq_or_lt.elim (fun h => h ▸ ha) (fun hb => mem_extent_of_rel_extent hb ha)

```

File: Mathlib/Order/Concept.lean [hunk 5]
```diff
@@ -282,6 +296,32 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
   · contradiction
   · assumption
 
+theorem isCompl_extent_intent [IsStrictTotalOrder α r'] (c' : Concept α α r') :
+    IsCompl c'.extent c'.intent :=
+  ⟨c'.disjoint_extent_intent, c'.codisjoint_extent_intent⟩
+
+theorem isLowerSet_extent_le {α : Type*} [Preorder α] (c : Concept α α (· ≤ ·)) :
+    IsLowerSet c.extent :=
+  @mem_extent_of_rel_extent _ _ _ _
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean]: I think this is better:
```
theorem isLowerSet_extent_le {α : Type*} [Preorder α] (c : Concept α α (· ≤ ·)) :
    IsLowerSet c.extent := fun _ _ => mem_extent_of_rel_extent
```

File: Mathlib/Order/Concept.lean [hunk 6]
```diff
@@ -282,6 +296,32 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
...
+
+theorem isUpperSet_intent_le {α : Type*} [Preorder α] (c : Concept α α (· ≤ ·)) :
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean]: Similar here.

File: Mathlib/Order/Concept.lean [hunk 7]
```diff
@@ -251,6 +251,20 @@ theorem intent_injective : Injective (@intent α β r) := fun _ _ => ext'
...
+    Concept α β r where
+  extent := e
+  intent := i
+  upperPolar_extent := by simp_all
+  lowerPolar_intent := by simp_all
+
+theorem copy_eq (c : Concept α β r)
+    (e : Set α) (he : e = c.extent) (i : Set β) (hi : i = c.intent) :
+    c.copy e he i hi = c := by
+  ext; simp_all
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean:264]: Does the tactic need to be on a new line?

File: Mathlib/Order/Concept.lean [hunk 8]
```diff
@@ -251,6 +251,20 @@ theorem intent_injective : Injective (@intent α β r) := fun _ _ => ext'
 @[deprecated (since := "2025-07-10")]
 alias snd_injective := intent_injective
 
+/-- Copy a concept, adjusting definitional equalities. -/
+@[simps!]
+def copy (c : Concept α β r) (e : Set α) (he : e = c.extent) (i : Set β) (hi : i = c.intent) :
```
Comment (wrenna-robson) [inline Mathlib/Order/Concept.lean]:
```
def copy (c : Concept α β r) (e : Set α) (he : e = c.extent) (i : Set β) (hi : i = c.intent) :
    Concept α β r := ⟨e, i, he ▸ hi ▸ c.upperPolar_extent, he ▸ hi ▸ c.lowerPolar_intent⟩
```

File: Mathlib/Order/Concept.lean (hunk 2 above)
Comment (wrenna-robson) [reply Mathlib/Order/Concept.lean]: I think this is fine. I don't love it but it's fine! Maybe `isLowerSet_le_extent` etc.

Comment (wrenna-robson) [reply Mathlib/Order/Concept.lean]: But it doesn't really matter.

File: Mathlib/Order/Concept.lean (hunk 3 above)
Comment (wrenna-robson) [reply Mathlib/Order/Concept.lean]: Nevertheless, it's the principle of the thing.

Comment (wrenna-robson) [reply Mathlib/Order/Concept.lean]: `[LE α] [IsTrans α (· ≤ ·)]` suffices.

File: Mathlib/Order/Concept.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/Order/Concept.lean:264]: I think it looks a bit too cluttered if I put it on the previous line.

File: Mathlib/Order/Concept.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Order/Concept.lean]: Impressive!

File: Mathlib/Order/Concept.lean [hunk 9]
```diff
@@ -282,6 +292,24 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
   · contradiction
   · assumption
 
+theorem isCompl_extent_intent [IsStrictTotalOrder α r'] (c' : Concept α α r') :
+    IsCompl c'.extent c'.intent :=
+  ⟨c'.disjoint_extent_intent, c'.codisjoint_extent_intent⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Concept.lean:299]:
```suggestion
    IsCompl c.extent c.intent :=
  ⟨c.disjoint_extent_intent, c.codisjoint_extent_intent⟩
```

File: Mathlib/Order/Concept.lean [hunk 10]
```diff
@@ -282,6 +292,24 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
   · contradiction
   · assumption
 
+theorem isCompl_extent_intent [IsStrictTotalOrder α r'] (c' : Concept α α r') :
+    IsCompl c'.extent c'.intent :=
```
Comment (YaelDillies) [inline Mathlib/Order/Concept.lean:298]: Can you deduce as simp lemmas that `c.extent^\c = c.intent` and vice-versa ?

File: Mathlib/Order/Concept.lean [hunk 11]
```diff
@@ -282,6 +292,24 @@ theorem codisjoint_extent_intent [IsTrichotomous α r'] [IsTrans α r'] :
...
+  ⟨c'.disjoint_extent_intent, c'.codisjoint_extent_intent⟩
+
+theorem isLowerSet_extent_le [LE α] [IsTrans α (· ≤ ·)] (c : Concept α α (· ≤ ·)) :
+    IsLowerSet c.extent :=
+  fun _ _ ↦ mem_extent_of_rel_extent
+
+theorem isUpperSet_intent_le [LE α] [IsTrans α (· ≤ ·)] (c : Concept α α (· ≤ ·)) :
+    IsUpperSet c.intent :=
+  fun _ _ ↦ mem_intent_of_intent_rel
```
Comment (YaelDillies) [inline Mathlib/Order/Concept.lean]: Just wondering: Shouldn't these be in the Dedekind cut file?

Comment (vihdzp) [reply Mathlib/Order/Concept.lean]: Felt weird having the lt versions without the le versions. My idea is that once in the Dedekind cut file, we can prove `IsLowerSet A.left` and `IsUpperSet A.right` as one liners from this theorem.

Comment (YaelDillies) [reply Mathlib/Order/Concept.lean]: Didn't you say `Concept α α (· < ·)` was called "gaps"? If so, you could move the le versions to the Dedekind domain file, and the lt versions to the gaps file

Comment (vihdzp) [reply Mathlib/Order/Concept.lean]: Do we want `Gap α = Concept α α (· < ·)` in Mathlib? Or is the suggestion that we move this to the CGT repo? I'm fine with either, really.

Comment (YaelDillies) [reply Mathlib/Order/Concept.lean]: A priori I don't mind, but I currently don't know of any use of gaps beyond CGT, so let's move your lt lemmas there

File: Mathlib/Order/Concept.lean [hunk 12]
```diff
@@ -255,6 +255,16 @@ theorem intent_injective : Injective (@intent α β r) := fun _ _ => ext'
 @[deprecated (since := "2025-07-10")]
 alias snd_injective := intent_injective
 
+/-- Copy a concept, adjusting definitional equalities. -/
+@[simps!]
+def copy (c : Concept α β r) (e : Set α) (he : e = c.extent) (i : Set β) (hi : i = c.intent) :
```
Comment (YaelDillies) [inline Mathlib/Order/Concept.lean]: I would instead suggest
```suggestion
def copy (c : Concept α β r) (e : Set α) (i : Set β) (he : e = c.extent) (hi : i = c.intent) :
```

File: Mathlib/Order/Concept.lean [hunk 13]
```diff
@@ -255,6 +255,16 @@ theorem intent_injective : Injective (@intent α β r) := fun _ _ => ext'
...
+    Concept α β r := ⟨e, i, he ▸ hi ▸ c.upperPolar_extent, he ▸ hi ▸ c.lowerPolar_intent⟩
+
+theorem copy_eq (c : Concept α β r)
+    (e : Set α) (he : e = c.extent) (i : Set β) (hi : i = c.intent) :
```
Comment (YaelDillies) [inline Mathlib/Order/Concept.lean]: Among other things, this lets you do
```suggestion
theorem copy_eq (c : Concept α β r) (e : Set α) (i : Set β) (he hi) :
```
which points to the fact that `he` and `hi` are determined by other arguments

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
